US05439917
2-Chloro-3-cyanomethylpyrrolo[2,3-b]pyridine.
3-cyanomethylpyrrolo[2,3-b]pyridine (1,55 g, 0.098 mol) was treated in 5 ml acetic acid with an equimolecular amount of sulfurylchloride at 0° C. for 5 min. The mixture was allowed to warm to room temperature and was stirred 5 min. After evaporation the residue was dissolved in methylen chloride and was treated with bicarbonate. The organic layer was separated, dried over Na2SO4 and the solvent was removed under reduced pressure. Chromatography on silica gel eluting with ethyl acetate gave the desired product. (0,4 g 21%).

reactant | 3-cyanomethylpyrrolo[2,3-b]pyridine | 0.098 mol, 1,55 g | C(#N)CC1=CNC2=NC=CC=C21 | C9H7N3
reactant | sulfurylchloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 2-Chloro-3-cyanomethylpyrrolo[2,3-b]pyridine | ClC1=C(C=2C(=NC=CC2)N1)CC#N | C9H6ClN3
